US06048864
(a) 2-Cyclopentyloxy-3,4-dimethoxybenzonitrile
The subtitle compound was prepared from 2-hydroxy-3,4-dimethoxybenzonitrile and freshly distilled cyclopentyl bromide following the procedure described in Example 10(d). The crude product was purified on silica gel eluting with dichloromethane to give the subtitle compound as a colourless oil (95%). Rf 0.50 (dichloromethane). MS m/z 265 MNH4)+.

reactant | 2-hydroxy-3,4-dimethoxybenzonitrile | OC1=C(C#N)C=CC(=C1OC)OC | C9H9NO3
reactant | cyclopentyl bromide | C1(CCCC1)Br | C5H9Br
product | 2-Cyclopentyloxy-3,4-dimethoxybenzonitrile | 95% | C1(CCCC1)OC1=C(C#N)C=CC(=C1OC)OC | C14H17NO3
